US04652633
204 parts of the crude 2,4-dichloroacetanilide are added to 300 parts of 100% strength sulfuric acid, while stirring. Thereafter, the mixture is heated further to 130° C., and 235 parts of chlorosulfonic acid are added dropwise at this temperature in such a manner that the hydrogen chloride gas liberated can readily be removed. Stirring is then continued at from 135° to 140° C. until the sulfonation is complete, this taking about 1 hour. The mixture is then left to cool to 50°-80° C., and is poured into 1300 parts by volume of water. After steam distillation for a short time, 10 parts of pure 2,4,6-trichloroaniline are obtained, as a by-product, in the distillate. The reaction mixture is then cooled to room temperature, and precipitated 2,4-dichloroaniline-6-sulfonic acid is filtered off and washed with dilute hydrochloric acid. 204 parts of 2,4-dichloroaniline-6-sulfonic acid (calculated as 100% pure) are obtained as a colorless aqueous paste, which can be used in moist form for diazotizations. H-NMR in D2O: 7.3 ppm, 7.6 ppm, J: 3 Hz (as the ammonium salt).

reactant | 2,4-dichloroacetanilide | CC(=O)NC1=C(C=C(C=C1)Cl)Cl | C8H7Cl2NO
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | chlorosulfonic acid | ClS(=O)(=O)O | ClHO3S
reactant | hydrogen chloride | Cl | ClH
product | 2,4-dichloroaniline-6-sulfonic acid | 100% | ClC1=C(N)C(=CC(=C1)Cl)S(=O)(=O)O | C6H5Cl2NO3S
